US03932663
p-Chlorobenzoyl chloride (43.8 g.) was added dropwise to a stirred mixture of fluorene (41.5 g.) aluminium chloride (33.4 g.) and carbon disulphide (100 ml.). After the vigorous reaction had subsided the mixture was stirred and boiled under reflux for 6 hours. It was cooled, poured onto ice, the carbon disulphide distilled off on a steam bath, and the solid product filtered off, washed, dried and recrystallised from benzene to give 2 -p-chlorobenzoylfluorene, m.p. 183°C. This was reacted by the method of Example 1 to give trans-1-(2-fluorenyl)-1-p-chlorophenyl3-dimethylaminoprop-1-ene, hydrochloride from ethanol, m.p. 236°-237°C. Isomeric homogeneity was confirmed by n.m.r. spectroscopy.

reactant | p-Chlorobenzoyl chloride | 43.8 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | fluorene | 41.5 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | aluminium chloride | 33.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulphide | 100 ml | C(=S)=S | CS2
product | 2 -p-chlorobenzoylfluorene | ClC1=CC=C(C(=O)C2=CC=3CC4=CC=CC=C4C3C=C2)C=C1 | C20H13ClO
